US04709032
In 50 ml of a chloroform solution containing 11.55 g of 1,3-diamino-2-phenylpropane and 1.33 g of triethylamine was added dropwise 30 ml of a chloroform solution containing 3.5 g of 5-isoquinolinesulfonyl chloride under cooling with ice. After the dropwise addition of the chloroform solution, the mixed solution was stirred at a temperature of 10° C. to 20° C. for four hours, and the reaction mixture solution was washed with water and dried with anhydrous potassium carbonate. After the chloroform was distilled therefrom, the residue thus obtained was subjected to a silica gel column chromatography (silica gel: 90 g; solvent: 5% methanol/chloroform (volume ratio)) to give 3.20 g of N-(3-amino-2-phenylpropyl)-5-isoquinolinesulfonamide in a yield of 61%.

reactant | 1,3-diamino-2-phenylpropane | 11.55 g | NCC(CN)C1=CC=CC=C1 | C9H14N2
reactant | triethylamine | 1.33 g | C(C)N(CC)CC | C6H15N
reactant | 5-isoquinolinesulfonyl chloride | 3.5 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-amino-2-phenylpropyl)-5-isoquinolinesulfonamide | 3.20 g, yield of 61% | NCC(CNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)C1=CC=CC=C1 | C18H19N3O2S
